US06214846B1
(2S3S)-N-{[2-Cyclopropoxy-5-(trifluoromethoxy)phenyl]methyl}-2-phenylpiperidin-3-amine Dihydrochloride
Sodium triacetoxyborohydride (411 mg, 1.94 mmol) was added to a mixture of 2-cyclopropoxy-5-(trifluoromethoxy)benzaldehyde (Description 9, 159 mg, 0.646 mmol), (2S3S)-2-phenylpiperidin-3-amine (prepared by the method described in WO 95/08549, 171 mg, 0.97 mmol) and acetic acid, (111 μl, 1.94 mmol) in 1,2-dichloroethane (5 mL) and the mixture was stirred at room temperature for 2.5 h. The mixture was poured into aqueous sodium hydrogen carbonate (satd., 50 mL) and extracted with ethyl acetate. The combined organic fractions were washed with aqueous sodium hydrogen carbonate (satd., 2×50 mL) and brine (50 mL), dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with CH2Cl2/MeOH/NH3(Aq.) (97:3:0.3). The residue was dissolved in ethanol (2 mL) and ethanolic hydrogen chloride (5M, 0.5 mL) was added. The solid was collected and recrystallised from ethanol. The solid was collected and dried in vacuo to give the title compound as a yellow solid (144 mg, 46%). m.p. 168-171° C. 1H NMR (360 MHz, CD3OD) δ0.66-0.67 (1H, m), 0.80-0.82 (3H, m), 1.99-2.03 (1H, m), 2.27-2.35 (1H, m), 2.43-2.54 (2H, m), 3.30 (1H, m), 3.57-3.68 (1H, m), 3.75-3.80 (2H, m), 4.06-4.14 (2H, m), 5.05-5.06 (1H, d, J 2.7 Hz), 7.26 (1H, d, J 2.0 Hz), 7.30-7.39 (2H, m), 7.50-7.57 (3H, m), and 7.61 (2H, m). m/z (ES+) 407 (M+1).

reactant | Sodium triacetoxyborohydride | 1.94 mmol, 411 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-cyclopropoxy-5-(trifluoromethoxy)benzaldehyde | 0.646 mmol, 159 mg | C1(CC1)OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C11H9F3O3
reactant | (2S3S)-2-phenylpiperidin-3-amine | C1(=CC=CC=C1)[C@@H]1NCCC[C@@H]1N | C11H16N2
reactant | acetic acid | 1.94 mmol, 111 μl | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
reactant | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | (2S3S)-N-{[2-Cyclopropoxy-5-(trifluoromethoxy)phenyl]methyl}-2-phenylpiperidin-3-amine Dihydrochloride | 144 mg, 46% | Cl.Cl.C1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1 | InChI=1S/C22H25F3N2O2.2ClH/c23-22(24,25)29-18-10-11-20(28-17-8-9-17)16(13-18)14-27-19-7-4-12-26-21(19)15-5-2-1-3-6-15;;/h1-3,5-6,10-11,13,17,19,21,26-27H,4,7-9,12,14H2;2*1H/t19-,21-;;/m0../s1
